US07981918B2
(3R)-3-(3,5-Dichloro-4′-trifluoromethyl-biphenyl-4-ylmethyl)-1-(4,5,6,7-tetrahydro-1H-indazol-4-yl)-pyrrolidin-2-one
Bring a mixture of trifluoro-methanesulfonic acid 3,5-dichloro-4-[(R)-2-oxo-1-(1-trifluoromethanesulfonyl-4,5,6,7-tetrahydro-1H-indazol-4-yl)-pyrrolidin-3-ylmethyl]phenyl ester and trifluoro-methanesulfonic acid 3,5-dichloro-4-[(R)-2-oxo-1-(2-trifluoromethanesulfonyl-4,5,6,7-tetrahydro-2H-indazol-4-yl)-pyrrolidin-3-ylmethyl]-phenyl ester (0.5 g, 0.78 mmol), 4-trifluoromethylphenylboronic acid (0.18 g, 0.93 mmol), sodium carbonate (0.25 g, 2.3 mmol) in THF (15 mL) and water (5 mL) to 60° C. To the mixture at 60° C., add Pd(PPh3)4 (0.04 g, 0.03 mmol). Raise the reaction temperature to 80° C. and stir the reaction for 1 hour. Cool the reaction, dilute with ethyl acetate, and wash with water and brine. Dry the organic layer (Na2SO4) and remove the solvent in vacuo to afford crude product (0.48 g). Dissolve in THF (5 mL) and stir in LiOH (2 N, 3 mL) at room temperature for 1.5 hour. Quench the reaction with HCl (1N, 8 mL), dilute with ethyl acetate, and wash with water. Dry the organic layer (Na2SO4), remove the solvent in vacuo to afford crude product, and then purify on silica gel column with 100% dichloromethane to 10% methanol in dichloromethane to afford 0.35 g of the title product. MS (m/z): 508 (M+).

reactant | trifluoro-methanesulfonic acid 3,5-dichloro-4-[(R)-2-oxo-1-(1-trifluoromethanesulfonyl-4,5,6,7-tetrahydro-1H-indazol-4-yl)-pyrrolidin-3-ylmethyl]phenyl ester | ClC=1C=C(C=C(C1C[C@H]1C(N(CC1)C1C=2C=NN(C2CCC1)S(=O)(=O)C(F)(F)F)=O)Cl)OS(=O)(=O)C(F)(F)F | C20H17Cl2F6N3O6S2
reactant | trifluoro-methanesulfonic acid 3,5-dichloro-4-[(R)-2-oxo-1-(2-trifluoromethanesulfonyl-4,5,6,7-tetrahydro-2H-indazol-4-yl)-pyrrolidin-3-ylmethyl]-phenyl ester | 0.78 mmol, 0.5 g | ClC=1C=C(C=C(C1C[C@H]1C(N(CC1)C1C2=CN(N=C2CCC1)S(=O)(=O)C(F)(F)F)=O)Cl)OS(=O)(=O)C(F)(F)F | C20H17Cl2F6N3O6S2
reactant | 4-trifluoromethylphenylboronic acid | 0.93 mmol, 0.18 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 2.3 mmol, 0.25 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | LiOH | 2 N, 3 mL | [Li+].[OH-]
catalyst | Pd(PPh3)4 | 0.03 mmol, 0.04 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (3R)-3-(3,5-Dichloro-4′-trifluoromethyl-biphenyl-4-ylmethyl)-1-(4,5,6,7-tetrahydro-1H-indazol-4-yl)-pyrrolidin-2-one | 0.35 g | ClC=1C=C(C=C(C1C[C@H]1C(N(CC1)C1C=2C=NNC2CCC1)=O)Cl)C1=CC=C(C=C1)C(F)(F)F | C25H22Cl2F3N3O
